US05688798
A suspension of 0.098 g (0.00051 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine in 2 ml of dimethylformamide was treated with 0.21 ml (0.0015 mol) of triethylamine and 0.145 g (0.00061 mol) of 5-benzyloxy-1,2,3,4-tetrahydro-isoquinoline (WO 94/20459) and the mixture was stirred at room temperature under argon for 18 hours The solvent was distilled off in a high vacuum. The residue was partitioned between dichloro-methane/water, extracted and dried over MgSO4. After removing the solvent the residue was chromatographed on silica gel with ethyl acetate as the eluent. 0.153 g (84%) of 5-(5-benzyloxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine was obtained as a yellowish oil. MS (ISP): me/e=361 (C22 H25N4O+).

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine | 0.00051 mol, 0.098 g | ClCC=1C(=NC(=NC1)C)N | C6H8ClN3
reactant | triethylamine | 0.0015 mol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | 5-benzyloxy-1,2,3,4-tetrahydro-isoquinoline | 0.00061 mol, 0.145 g | C(C1=CC=CC=C1)OC1=C2CCNCC2=CC=C1 | C16H17NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(5-benzyloxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine | 0.153 g, 84% | C(C1=CC=CC=C1)OC1=C2CCN(CC2=CC=C1)CC=1C(=NC(=NC1)C)N | C22H24N4O
